US05461067
F. N-((N-Methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine
A solution of 1.42 g (4.3 mmol) N-((N-methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine methyl ester in 17 ml of dioxane was treated with 17.3 ml of 0.50M aqueous LiOH. The resulting solution was stirred at ambient temperature for 30 min, treated with 8.7 ml of 1M HCl, and concentrated in vacuo. The residue was taken up in dichloromethane, washed with water, dried over Na2SO4, and concentrated in vacuo to provide 1.1 g (81%) of the desired compound. Mass spectrum: (M+H)+ =314.

reactant | N-((N-methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine methyl ester | 4.3 mmol, 1.42 g | COC([C@@H](NC(=O)N(CC=1N=C(SC1)C(C)C)C)C(C)C)=O | C15H25N3O3S
reactant | LiOH | 0.50M, 17.3 ml | [Li+].[OH-]
reactant | HCl | 1M, 8.7 ml | Cl | ClH
solvent | dioxane | 17 ml | O1CCOCC1 | C4H8O2
product | N-((N-Methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine | 1.1 g, 81% | CN(CC=1N=C(SC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)O | C14H23N3O3S
